US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[(3-cyanobenzyl)oxy]benzyl}-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate (338)
49 mg of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxy benzyl)propylcarbamate, 20 mg of m-cyanobenzylchloride, 20 mg of cesium carbonate and 0.5 mL of dimethyl formamide were stirred at rt for 5 h. The mixture was diluted with ethyl acetate and extracted with water. Chromatography on silica gel (1:1 ethylacetate/hexane) gave the title compound as a white solid (26 mg). 1H NMR: 0.87(6H,dd), 1.58(2H,m), 1.8(1H,m), 2.75(2H,m), 2.9(4H,m), 3.1(1H,m), 3.62(3H,m), 3.8(3H,m), 3.95(1H,m), 4.25(4H,m), 4.95(2H,m), 5.0(2H,s), 5.62(1H,d), 6.82(2H,d), 6.92(1H,d), 7.1(2H,d), 7.2(2H,m), 7.45(1H,t), 7.6(2H,m), 7.75(1H,s). MS:722 (M+H)

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxy benzyl)propylcarbamate | 49 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C29H38N2O10S
reactant | m-cyanobenzylchloride | 20 mg | C(#N)C=1C=C(CCl)C=CC1 | C8H6ClN
reactant | cesium carbonate | 20 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[(3-cyanobenzyl)oxy]benzyl}-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 26 mg | C(#N)C=1C=C(COC2=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C3=CC4=C(OCCO4)C=C3)O)NC(O[C@H]3CO[C@H]4OCC[C@H]43)=O)C=C2)C=CC1 | C37H43N3O10S
